US07514567B2
(b) (R)-3′-[4-(4-Pyridyl)thiazol-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analogous to that described in Example 14 from the reaction of the mixture of(R)-3′-(4-bromothiazol-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and (R)-3′-(4,5-dibromothiazol-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one with 4-(tri-n-butylstannyl)pyridine. Separation by reverse phase HPLC separation followed by conversion to the free base as described in Example 14 to give the title compound, m/z 343 (MH+); and (R)-3′-[4,5-di(4-pyridyl)thiazol-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one, m/z 420 (MH+).

reactant | (R)-3′-(4,5-dibromothiazol-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | BrC=1N=C(SC1Br)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C12H13Br2N3O2S
reactant | 4-(tri-n-butylstannyl)pyridine | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
product | (R)-3′-[4-(4-Pyridyl)thiazol-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | N1=CC=C(C=C1)C=1N=C(SC1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C17H18N4O2S
